US06756378B2
To a stirred solution of benzyl 4-amino-3-methoxyphenylacetate (1.36 g, 5 mmol) in THF (20 mL) was added 2-fluorophenyl isocyanate (561 ul, 5 mmol) and a catalytic amount of Et3N. The resulting mixture was stirred for 3 hr. The mixture was quenched by the addition of H2O (10 mL) and extracted with EtOAc. The extract was washed with brine, dried over MgSO4, and evaporated. The residue was chromatographed on silica-gel with CHCl3 as eluent to give 2.06 g (q.y.) benzyl 4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetate as a green oil. 1H-NMR (CDCl)3 δ3.63 (2H, s), 3.82 (3H, s), 5.14 (2H, s), 6.79-7.37 (12H, m), 8.01 (1H, d, J=7.8 Hz), 8.09-8.14 (1H, m).

reactant | benzyl 4-amino-3-methoxyphenylacetate | 5 mmol, 1.36 g | NC1=C(C=C(C=C1)CC(=O)OCC1=CC=CC=C1)OC | C16H17NO3
reactant | 2-fluorophenyl isocyanate | 5 mmol, 561 ul | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | benzyl 4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetate | 2.06 g | FC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)OCC1=CC=CC=C1)OC)=O | C23H21FN2O4
